US08378104B2
Step A: 3-bromo-2,4-difluorobenzaldehyde
To a cooled (0° C.) solution of 2,2,6,6-tetramethylpiperidine (1.64 mL, 9.75 mmol) in THF (20 mL) was added 1.6 M n-butyllithium in hexane (5.54 mL, 8.86 mmol). The solution was stirred for 20 min, then brought to −78° C. 1-bromo-2,6-difluorobenzene (1.00 mL, 8.86 mmol) in THF was added slowly, and the solution was stirred at −78° C. for 30 min. DMF (1 mL) was added slowly, and the solution was stirred at −78° C. for 20 min. Saturated aqueous ammonium chloride was added and the reaction was allowed to warm to rt. The organic solvent was removed in vacuo, and the residual material was extracted with EtOAc and washed with water (2×). The organic layer was purified by column chromatography (1 to 2% EtOAc:hexanes) to afford 350 mg (18%) of the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 6.97 (td, J=9.2, 1.5 Hz, 1 H), 7.78 (ddd, J=9.0, 7.5, 5.7 Hz, 1 H), 10.34 (s, 1 H).

reactant | 2,2,6,6-tetramethylpiperidine | 9.75 mmol, 1.64 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 8.86 mmol, 5.54 mL | CCCCCC | C6H14
reactant | 1-bromo-2,6-difluorobenzene | 8.86 mmol, 1.00 mL | BrC1=C(C=CC=C1F)F | C6H3BrF2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-bromo-2,4-difluorobenzaldehyde | 350 mg, 18% | BrC=1C(=C(C=O)C=CC1F)F | C7H3BrF2O
